### PR TITLE
Some developments related to well inside and way below

### PR DESCRIPTION
**Pull request by ayberkt**
This PR contains some basic proofs that will be useful once I start porting the patch frame to `TypeTopology`. Here is a short summary of the developments added in this PR:

1. Definitions of the well inside and way below relations.
1. Well inside implies below.
1. The fact that being a clopen is a proposition, even though the well inside relation in general is not a proposition (I added a counterexample using the initial frame).
1. Compact opens are closed under binary joins in any frame.
1. Scott-continuity of the closed nucleus.
1. The fact that well inside implies way below in any compact frame, and
   - as a corollary of this: clopens are compact in any compact frame.

### CODE REVIEW

**Comment by ayberkt** [comment]
@martinescardo Checks are passing now. This PR is ready to merge.

**Comment by martinescardo** [comment]
Excellent. Let's meet tomorrow to discuss this, as it will be easy for me to have your verbal explanations than to read the code.

**Comment by ayberkt** [comment]
> Let's meet tomorrow to discuss this

Sounds good!

File: source/CompactRegular.lagda [hunk 1]
```diff
@@ -0,0 +1,402 @@
...
+well-inside₀ F U V =
+ Σ W ꞉ ⟨ F ⟩ , (U ∧[ F ] W ≡ 𝟎[ F ]) × (V ∨[ F ] W ≡ 𝟏[ F ])
+
+infix 4 well-inside₀
+
+syntax well-inside₀ F U V = U ⋜₀[ F ] V
+
+-- The well inside relation is not propositional in general, even though the
+-- “has complement” (i.e. is well inside itself) is propositional.
+well-inside-is-not-prop : is-univalent 𝓤₀
```
Comment (martinescardo) [inline source/CompactRegular.lagda:141]: well-inside in the name should have subscript 0.

File: source/CompactRegular.lagda [hunk 2]
```diff
@@ -0,0 +1,402 @@
...
+    γ : ⊥Ω holds
+    γ = transport _holds (𝟏[ IF ] ≡⟨ p ⁻¹ ⟩ 𝟎[ IF ] ≡⟨ 𝟎-of-IF-is-⊥ ua ⟩ ⊥Ω ∎) *
+
+  ε : ¬ ((U V : ⟨ IF ⟩) → is-prop (well-inside₀ IF U V))
+  ε ψ = 𝟎-is-not-𝟏 (pr₁ (from-Σ-≡ δ))
+   where
+    δ : γ₁ ≡ γ₂
+    δ = ψ 𝟎[ IF ] 𝟏[ IF ] γ₁ γ₂
+
+-- Because well inside is not propositional, we have to truncate it to get a
```
Comment (martinescardo) [inline source/CompactRegular.lagda:181]: This comment should be implemented by begin and end code.

File: source/CompactRegular.lagda [hunk 3]
```diff
@@ -0,0 +1,402 @@
...
+-- relation.
+well-inside : (F : frame 𝓤 𝓥 𝓦) → ⟨ F ⟩ → ⟨ F ⟩ → Ω 𝓤
+well-inside F U V = ∥ U ⋜₀[ F ] V ∥Ω
+
+infix 4 well-inside
+
+syntax well-inside F U V = U ⋜[ F ] V
+
+well-inside₀-implies-below : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/CompactRegular.lagda:190]: Here the 0 should go.

File: source/CompactRegular.lagda [hunk 4]
```diff
@@ -0,0 +1,402 @@
...
+      W₂                                  ∎
+       where
+        i   = ap (λ - → - ∨[ F ] (W₁ ∧[ F ] W₂)) (∧[ F ]-is-commutative W₁ U)
+        ii  = ap (λ - → - ∨[ F ] (W₁ ∧[ F ] W₂)) p₁
+        iii = ap (λ - → - ∨[ F ] (W₁ ∧[ F ] W₂)) (p₂ ⁻¹)
+        iv  = ap (λ - → - ∨[ F ] (W₁ ∧[ F ] W₂)) (∧[ F ]-is-commutative U W₂)
+        v   = ap (λ - → (W₂ ∧[ F ] U) ∨[ F ] -) (∧[ F ]-is-commutative W₁ W₂)
+        vi  = binary-distributivity F W₂ U W₁ ⁻¹
+        vii = ap (λ - → W₂ ∧[ F ] -) q₁
+        viii = 𝟏-right-unit-of-∧ F W₂
```
Comment (martinescardo) [inline source/CompactRegular.lagda:244]: The indentation level of "=" is off by 1 in the last one.

File: source/CompactRegular.lagda [hunk 5]
```diff
@@ -0,0 +1,402 @@
...
+
+is-clopen : (F : frame 𝓤 𝓥 𝓦) → ⟨ F ⟩ → Ω 𝓤
+is-clopen F U = is-clopen₀ F U , is-clopen₀-is-prop F U
+
+clopen-implies-well-inside-oneself : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/CompactRegular.lagda:249]: oneself shoujld be itself

Comment (martinescardo) [inline source/CompactRegular.lagda:249]: oneself should be itself

File: source/CompactRegular.lagda [hunk 6]
```diff
@@ -0,0 +1,402 @@
...
+                                   → (is-clopen F U ⇒ U ⋜[ F ] U) holds
+clopen-implies-well-inside-oneself F U = ∣_∣
+
+well-inside-oneself-implies-clopen : (F : frame 𝓤 𝓥 𝓦)
+                                          → (U : ⟨ F ⟩)
+                                          → (U ⋜[ F ] U ⇒ is-clopen F U) holds
+well-inside-oneself-implies-clopen F U =
+ ∥∥-rec (holds-is-prop (is-clopen F U)) id
+
+clopenness-equivalent-to-well-inside-oneself : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/CompactRegular.lagda:260]: oneself should be itself

File: source/CompactRegular.lagda [hunk 7]
```diff
@@ -0,0 +1,402 @@
...
+                         → (S : Fam 𝓦 ⟨ F ⟩)
+                         → (is-directed (poset-of F) S) holds
+                         → U ∨[ F ] (⋁[ F ] S) ≡ ⋁[ F ] ⁅ U ∨[ F ] Sᵢ ∣ Sᵢ ε S ⁆
+∨-is-scott-continuous-eq F U S dir =
+ ⋁[ F ]-unique ⁅ U ∨[ F ] Sᵢ ∣ Sᵢ ε S ⁆ (U ∨[ F ] (⋁[ F ] S)) (γ , δ)
+  where
+   γ = pr₁ ((∨-is-scott-continuous F U) S dir)
+   δ = pr₂ ((∨-is-scott-continuous F U) S dir)
+
+⋜₀-implies-≪-in-compact-frames : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/CompactRegular.lagda:339]: Should not use 0 here.

File: source/CompactRegular.lagda [hunk 8]
```diff
@@ -0,0 +1,402 @@
...
+       (⋁[ F ] S) ∨[ F ] W             ≡⟨ ∨[ F ]-is-commutative (⋁[ F ] S) W ⟩ₚ
+       W ∨[ F ] (⋁[ F ] S)             ≡⟨ ∨-is-scott-continuous-eq F W S d   ⟩ₚ
+       ⋁[ F ] ⁅ W ∨[ F ] Sᵢ ∣ Sᵢ ε S ⁆ ■
+
+   ε : ((W ∨[ F ] (⋁[ F ] S)) ≤ (⋁[ F ] T)) holds
+   ε = W ∨[ F ] (⋁[ F ] S)              ≤⟨ 𝟏-is-top F (W ∨[ F ] (⋁[ F ] S)) ⟩
+       𝟏[ F ]                           ≤⟨ δ                                ⟩
+       ⋁[ F ] ⁅ W ∨[ F ] Sᵢ ∣ Sᵢ ε S ⁆  ■
+
+   -- T is closed under binary upper bounds.
```
Comment (martinescardo) [inline source/CompactRegular.lagda:365]: Comments should not use "--"

File: source/Frame.lagda [hunk 9]
```diff
@@ -495,6 +541,31 @@ syntax binary-join F x y = x ∨[ F ] y
   γ = z                      ≤⟨ ∨[ F ]-upper₂ y z            ⟩
       y ∨[ F ] z             ≤⟨ ∨[ F ]-upper₂ x (y ∨[ F ] z) ⟩
       x ∨[ F ] (y ∨[ F ] z)  ■
+
+∨[_]-left-mono : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/Frame.lagda:545]: "mono" is confusing (a map is called a mono in category theory, which different from monotone, which is what you intend here).

File: source/Frame.lagda [hunk 10]
```diff
@@ -495,6 +541,31 @@ syntax binary-join F x y = x ∨[ F ] y
...
+               → ((x ∨[ F ] z) ≤[ poset-of F ] (y ∨[ F ] z)) holds
+∨[_]-left-mono F {x = x} {y} {z} p = ∨[ F ]-least γ (∨[ F ]-upper₂ y z)
+ where
+  open PosetNotation  (poset-of F) using (_≤_)
+  open PosetReasoning (poset-of F)
+
+  γ : (x ≤ (y ∨[ F ] z)) holds
+  γ = x ≤⟨ p ⟩ y ≤⟨ ∨[ F ]-upper₁ y z ⟩ y ∨[ F ] z ■
+
+∨[_]-right-mono : (F : frame 𝓤 𝓥 𝓦)
```
Comment (martinescardo) [inline source/Frame.lagda:557]: Same as above.

File: source/InitialFrame.lagda [hunk 11]
```diff
@@ -100,27 +100,37 @@ open propositional-truncations-exist pt
...
-    γ p = ∥∥-rec (holds-is-prop (P ∧ (⋁ U))) δ p
-     where
-      δ : Sigma (index (index U , (λ i → P ∧ U [ i ])))
-            (λ i → ((index U , (λ i₁ → P ∧ U [ i₁ ])) [ i ]) holds) →
-            (P ∧ (⋁ U)) holds
-      δ (i , q , uᵢ) = q , ∣ i , uᵢ ∣
+\end{code}
 
+\begin{code}
+𝟎-of-IF-is-⊥ : {𝓦 : Universe} → (ua : is-univalent 𝓦) → 𝟎[ 𝟎-𝔽𝕣𝕞 ua ] ≡ ⊥Ω
```
Comment (martinescardo) [inline source/InitialFrame.lagda:128]: Univalence is not needed. Propositional and functional extensionality are enough. There is something in TypeTopology for that.

Comment (martinescardo) [reply source/InitialFrame.lagda:128]: (You can leave this for later.)

Comment (martinescardo) [reply source/InitialFrame.lagda:128]: See the function propext-funext-give-prop-ua in the module UF-Equiv-FunExt.

File: source/CompactRegular.lagda (hunk 1 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:141]: Done ✅

File: source/CompactRegular.lagda (hunk 2 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:181]: Done ✅

File: source/CompactRegular.lagda (hunk 3 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:190]: Done ✅

File: source/CompactRegular.lagda (hunk 4 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:244]: Done ✅

File: source/CompactRegular.lagda (hunk 5 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:249]: Done ✅

File: source/CompactRegular.lagda (hunk 7 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:339]: I am leaving it as it is because there is another function for the truncated version as well.

File: source/CompactRegular.lagda (hunk 8 above)
Comment (ayberkt) [reply source/CompactRegular.lagda:365]: Done ✅

File: source/Frame.lagda (hunk 9 above)
Comment (ayberkt) [reply source/Frame.lagda:545]: Done ✅

File: source/InitialFrame.lagda (hunk 11 above)
Comment (ayberkt) [reply source/InitialFrame.lagda:128]: I made a note of this in Issue #69. I will address it in a future PR.

**Review by martinescardo — APPROVED** [review]

**Review by martinescardo — APPROVED** [review]

**Comment by ayberkt** [comment]
Should be ready to merge once the checks pass.
